Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Diarrhea, abdominal pain, BRBPR
 
Major Surgical or Invasive Procedure:
Flexible Sigmoidoscopy ___

 
History of Present Illness:
___ year old man from ___ with a history of UC, 
hemorrhoids, and GERD who presents with progressive BRBPR, 
diarrhea and abdominal pain x3weeks. History obtained from the 
patient with family present.

Reports arriving from ___ on ___ to visit son. On ___, 
went out to eat and food was "too spicy" (mild hot sauce was 
requested, but meal was spicier than typically eats). 
Immediately following this meal, reports onset of abdominal pain 
and diarrhea. Stool described as brown and loose with drops of 
red blood and mucus in the bowl, though never frankly bloody. 
Pain described as diffuse burning pain in the lower abdomen 
___, no radiation). Pain improves with defecation. Over the 
course of 3 weeks, stooling frequency increased to >5x/hr (small 
volume, loose, brown, mixed with BRB and mucus). Symptoms 
similar in character to ___, when diagnosed in ___ with 
UC (colonoscopy reported; records not available). Since 
diagnosis, was started on 1.6g PO BID Asacol, and symptoms were 
since captured with no reported flares (though reported use of 
remicade ___ year prior to admission). Last colonoscopy 3 months 
prior to admission (in ___, records not available), but 
pt reports being told that the results were largely normal. 

On the day prior to admission, Mr. ___ increased his ___ 
dose to 3.2g PO BID and symptoms reported to have improved. 
Still reports diffuse lower abdominal pain, relieved with 
defecation, as well as frequent, loose, small volume stools 
(>5x/hr), but stool is now brown with no visible blood or mucus. 


On further discussion, Mr. ___ denies recent antibiotic use, 
NSAID use, or acne medications. No weight loss. No fevers, 
constipation, palpitations, arthritis, vision changes, or skin 
rash. Also endorses chronic ___ back pain and bilateral lower 
leg pain, both have worsened since ran out of pain medication 2 
weeks prior to admission. 

In the ED, initial VS were 98.5 83 143/ 161/95 99% RA 
  
Exam notable for "Abd is soft, slightly tender to palpation, 
non-distended, normal bowel sounds, no guarding or rebound 
tenderness. Rectal exam reveals normal sphincter tone, no gross 
blood. FOBT negative."
 
Labs remarkable for normal white count (8.3), CRP 35.6, Hgb 
13.2, ___ 12.6, PTT 30.3, INR 1.2, normal chem 7. Small blood, 
trace protein, few bacteria in UA. 

No imaging in ED. 

Received ___ 16:29 IV Morphine Sulfate 4 mg 
         ___ 17:43 IV Morphine Sulfate 4 mg 
  
Transfer VS were 97.8 73 136/93 16 98% RA 

GI was consulted, noted history of UC with BRBPR and recommended 
"stool cx's and cdiff, esr/crp, 2 enemas in the morning,and 
NPOpMN"
 
Decision was made to admit to medicine for further management.  

On arrival to the floor, patient reports ongoing abdominal pain 
and urge to defecate frequently. Left sided chest pain reported, 
described as burning, without radiation, and not associated with 
exercise or position. Chest pain is at his baseline, and reports 
taking PPI for GERD.

 
Past Medical History:
Ulcerative Colitis since ___
Hemorrhoids
Chronic Low Back Pain
Chronic Lower Extremity Pain
L-sided CMY (described TTE and stress test in PR)
 
Social History:
___
Family History:
No family history of IBD (though father had hemorrhoids). 
Father died (age ___ of HTN
No family history of heart disease, stroke, or cancer. 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
VS 98.3 141/86 68 18 97% RA 
GENERAL: NAD  
HEENT: EOMI, PERRL, anicteric sclera, pink conjunctiva, MMM, 
good dentition, no ulcerations  
NECK: nontender supple neck, no LAD, no JVD  
CARDIAC: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNG: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
ABDOMEN: +BS, nontender/non-distended. TTP in band-like 
distribution in lower abdomen. No hepatosplenomegaly.  
EXTREMITIES: no cyanosis, clubbing or edema, moving all 4 
extremities with purpose  
PULSES: 2+ DP pulses bilaterally  
NEURO: CN II-XII intact  
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes 
RECTAL: No perianal disease and no blood on exam. 

DISCHARGE PHYSICAL EXAM:
VS - 98.2 98.2 | ___ | ___ | ___ | 96-100% RA
General: well appearing, NAD  
HEENT: EOMI, MMM 
NECK: no JVD  
CARDIAC: RRR, S1/S2, no m/r/g
LUNG: CTAB, breathing comfortably without use of accessory 
muscles  
ABDOMEN: +BS. Minimally tender to deep palpation in lower 
abdomen in a band-like distribution. No hepatosplenomegaly.  
EXTREMITIES: WWP 
NEURO: grossly normal  
 
Pertinent Results:
ADMISSION LABS
===============================
___ 02:10PM BLOOD WBC-8.3 RBC-4.52* Hgb-13.2* Hct-41.0 
MCV-91 MCH-29.2 MCHC-32.2 RDW-15.6* RDWSD-51.8* Plt ___
___ 02:10PM BLOOD Neuts-65.5 ___ Monos-10.5 Eos-1.8 
Baso-0.5 Im ___ AbsNeut-5.43 AbsLymp-1.76 AbsMono-0.87* 
AbsEos-0.15 AbsBaso-0.04
___ 02:10PM BLOOD ___ PTT-30.3 ___
___ 02:10PM BLOOD Glucose-86 UreaN-17 Creat-0.8 Na-140 
K-4.3 Cl-103 HCO3-28 AnGap-13

___ 08:00AM BLOOD ALT-8 AST-14 AlkPhos-82 TotBili-0.4 
DirBili-<0.2 IndBili-0.4
___ 08:00AM BLOOD Calcium-9.2 Phos-3.4 Mg-2.1
___ 04:40PM URINE Color-Yellow Appear-Clear Sp ___
___ 04:40PM URINE Blood-SM  Nitrite-NEG Protein-TR 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-NEG
___ 04:40PM URINE RBC-2 WBC-1 Bacteri-FEW Yeast-NONE Epi-0
___ 04:40PM URINE Mucous-FEW

NOTABLE LABS
===============================
___ 02:10PM BLOOD CRP-36.0*
___ 08:00AM BLOOD CRP-41.9*
___ 07:05AM BLOOD CRP-52.6*
___ 07:36AM BLOOD CRP-18.9*

STUDIES
===============================
Flex Sig ___
Mucosa: Continuous erythema, granularity, friability with 
contact bleeding and superficial ulceration were noted in the 
rectum and proximal sigmoid colon. Normal mucosa was noted 
starting in proximal sigmoid colon. The procedure was aborted at 
descending colon (35 cm) due to the presence of stool. These 
findings are compatible with ulcerative colitis. Cold forceps 
biopsies were performed for histology at the sigmoid colon. Cold 
forceps biopsies were performed for histology at the rectum.  
 
Impression: Erythema, granularity and friability in the rectum 
and proximal sigmoid colon compatible with ulcerative colitis 
(biopsy, biopsy)
Otherwise normal sigmoidoscopy to sigmoid colon 

Recommendations: Follow-up biopsy results
Followup per inpatient GI recommendations 

MICRO
===============================
___ STOOL C. difficile DNA amplification 
assay-FINAL {CLOSTRIDIUM DIFFICILE}; FECAL CULTURE-PRELIMINARY; 
CAMPYLOBACTER CULTURE-PRELIMINARY 

DISCHARGE LABS
===============================
___ 07:36AM BLOOD WBC-13.0*# RBC-4.46* Hgb-12.8* Hct-39.7* 
MCV-89 MCH-28.7 MCHC-32.2 RDW-15.2 RDWSD-49.2* Plt ___
___ 07:36AM BLOOD Glucose-133* UreaN-21* Creat-0.9 Na-136 
K-5.3* Cl-98 HCO3-26 AnGap-17
___ 07:36AM BLOOD Calcium-9.1 Phos-3.1 Mg-2.1
 
Brief Hospital Course:
This is a ___ year old male with past medical history of 
ulcerative colitis, GERD admitted ___ with bloody 
diarrhea and abdominal pain, found to have ulcerative colitis 
flare and Cdiff colitis, improving on PO vancomycin and IV 
steroids, discharged on PO steroid taper

ACTIVE ISSUES
=============================

# Ulcerative Colitis with Rectal Bleeding - patient presented 
with bloody diarrhea x 3 weeks, as well as frequent small 
volume, loose stools with mucus and blood, associated with 
abdominal pain. Symptoms consistent with those experienced when 
diagnosed with UC in ___. Flexible sigmoidoscopy 
revealed a continuous pattern of ulceration from the rectum to 
sigmoid without pseudomembranes, consistent with ulcerative 
colitis. Started on soluemdrol therapy for UC flare on ___ and 
discharged on prednisone taper to end on ___.  Given that 
patient is from ___ and does not have a ___ physician in 
the ___ (and he is staying in ___ for the next ___ months, 
___ GI agreed to see for outpatient follow-up).  

# C. difficile infection - In setting of above diarrhea, 
patient also found to have C. difficile positive stool.  Was 
started on oral vancomycin rx on ___ to finish 14 days.
 
CHRONIC ISSUES
=============================
#LBP, chronic - At baseline, well-controlled on Tramadol 25 mg 
PO BID 

#B/L lower extremity pain - At baseline, well-controlled on 
Tramadol 25 mg PO BID 

#GERD - At baseline, well-controlled on home omeprazole 20mg PO 
daily

#HTN - Remained normotensive throughout hospitalization, and 
was maintained on home Isosorbide Dinitrate 10 mg PO BID 

TRANSITIONAL ISSUES
=============================

[ ] Vancomycin for C. difficile (___)
[ ] Prednisone taper as follows: 40mg daily x 2weeks (until 
___, 20mg daily x 1 week (___), 15 mg daily x 1 week 
(___), 10mg daily x 1 week (___), 5mg daily x 1week 
(___)
[ ] Hepatitis B non-immune - consider vaccination in the future
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Mesalamine ___ 1600 mg PO BID UC 
2. Isosorbide Dinitrate 10 mg PO BID 
3. Omeprazole 20 mg PO DAILY GERD 
4. TraMADol 37.5 mg PO BID LBP 
 
Discharge Medications:
1. Isosorbide Dinitrate 10 mg PO BID 
2. Mesalamine ___ 1600 mg PO BID UC 
3. Omeprazole 20 mg PO DAILY GERD 
4. TraMADol 37.5 mg PO BID LBP 
5. Vancomycin Oral Liquid ___ mg PO Q6H Duration: 14 Days 
Please take for a total of 14 days (you will take the medicine 
as instructed until ___ 
RX *vancomycin 125 mg 1 capsule(s) by mouth every 6 hours Disp 
#*48 Capsule Refills:*0
6. PredniSONE 40 mg PO DAILY Duration: 14 Doses 
Start: Tomorrow - ___, First Dose: First Routine 
Administration Time 
This is dose # 1 of 5 tapered doses
RX *prednisone 10 mg 4 tablet(s) by mouth once a day Disp #*56 
Tablet Refills:*0
7. PredniSONE 20 mg PO DAILY Duration: 7 Doses 
Start: After 40 mg DAILY tapered dose 
This is dose # 2 of 5 tapered doses
RX *prednisone 10 mg 2 tablet(s) by mouth once a day Disp #*14 
Tablet Refills:*0
8. PredniSONE 15 mg PO DAILY Duration: 7 Doses 
Start: After 20 mg DAILY tapered dose 
This is dose # 3 of 5 tapered doses
RX *prednisone 10 mg 1 and ___ tablet(s) by mouth once a day 
Disp #*14 Tablet Refills:*0
9. PredniSONE 10 mg PO DAILY Duration: 7 Doses 
Start: After 15 mg DAILY tapered dose 
This is dose # 4 of 5 tapered doses
RX *prednisone 10 mg 1 tablet(s) by mouth daily Disp #*7 Tablet 
Refills:*0
10. PredniSONE 5 mg PO DAILY Duration: 7 Doses 
Start: After 10 mg DAILY tapered dose 
This is dose # 5 of 5 tapered doses
RX *prednisone 10 mg 0.5 (One half) tablet(s) by mouth daily 
Disp #*7 Tablet Refills:*0
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis
=====================
Lower Gastrointestinal Bleed
Flare, Ulcerative Colitis
C. Difficile Infection

Secondary Diagnoses
=====================
Hemorrhoids
Chronic Low Back Pain
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).
 
Discharge Instructions:
Dear Mr. ___, 

You were admitted to the hospital because you were having 
frequent diarrhea, blood in your stool, and abdominal pain. 
While hospitalized, your care team found that you were 
experiencing a worsening of your ulcerative colitis. You also 
tested positive for an infection of your colon called 
Clostridium difficile ("C diff"). We started you on treatment 
for your symptoms with steroids as well as oral antibiotics. 
Please continue to take these medications after discharge.

It was a pleasure caring for you,
Your ___ Team
 
Followup Instructions:
___